US08859494B2
Ethyl 3-(4-hydroxyphenyl)-3-methoxypropionate
9.3 g of ethyl 3-(4-benzyloxyphenyl)-3-methoxypropionate were dissolved in 200 ml of ethanol, and 1.1 g of palladium on activated carbon (10%) were added. The mixture was stirred under a hydrogen atmosphere at room temperature for two hours. The reaction mixture was filtered through a nylon membrane filter (0.45 μm) and washed with 200 ml of ethanol, and the filtrate was concentrated under reduced pressure. This gave 6.7 g of ethyl 3-(4-hydroxyphenyl)-3-methoxypropionate.

reactant | ethyl 3-(4-benzyloxyphenyl)-3-methoxypropionate | 9.3 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CC(=O)OCC)OC | C19H22O4
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium on activated carbon | 1.1 g | [Pd] | Pd
product | Ethyl 3-(4-hydroxyphenyl)-3-methoxypropionate | OC1=CC=C(C=C1)C(CC(=O)OCC)OC | C12H16O4
